US20010004670A1
2,6-bis[2,2,2-trifluoro-1-hydroxyethyl]4-methyl-phenol
5.8 g (50 mmol) of p-cresol and 15.5 g (100 mmol) of 75% fluoral hydrate are introduced into a 100 ml reactor. 5 g of MgO are added. The mixture is heated at 105° C. for 8 hours. After treating according to the protocol described in Example 1, 70% of dihydroxyalkylated product are obtained.

reactant | p-cresol | 50 mmol, 5.8 g | C1=CC(=CC=C1O)C | C7H8O
reactant | fluoral hydrate | 100 mmol, 15.5 g | C(C(F)(F)F)(O)O | C2H3F3O2
product | 2,6-bis[2,2,2-trifluoro-1-hydroxyethyl]4-methyl-phenol | FC(C(O)C1=C(C(=CC(=C1)C)C(C(F)(F)F)O)O)(F)F | C11H10F6O3
